US08440662B2
Step 1: (4-Methyl-piperazin-1-yl)-(4-nitro-phenyl)-methanone
To a solution of 4-nitro-benzoic acid (10 g, 0.0598 mol) in DMF (300 mL) 1-methyl-piperazine (7.19 g, 0.0718 mol), HOBt (10.5 g, 0.0777 mol), EDC.HCl (17.12 g, 0.0897 mol) and TEA (12.1 g, 0.1196 mol) were added. The reaction mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate (3×200 mL). The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure to afford the title compound [14 g, 95%]; LC-MS (ESI): Calculated mass: 249.1; Observed mass: 250.0 [M+H]+ (RT: 0.10 min).

reactant | 4-nitro-benzoic acid | 0.0598 mol, 10 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | DMF | 0.0718 mol, 300 mL, 7.19 g | CN(C)C=O | C3H7NO
reactant | HOBt | 0.0777 mol, 10.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.0897 mol, 17.12 g | CCN=C=NCCCN(C)C.Cl
solvent | water | O | H2O
product | (4-Methyl-piperazin-1-yl)-(4-nitro-phenyl)-methanone | 14 g, 95% | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O3
